US05958914
To a stirred mixture of solution of diphenylmethyl 7β-[2-(5-chloro-2-formylaminothiazol-4-yl)-2-(Z)-(2-cyclopenten-1-yloxyimino)acetamido]-3-[(1-tritylpyrazol-4-yl)methylthio]-3-cephem-4-carboxylate (3.82 g) in the mixture of methanol (40 ml) and tetrahydrofurane (12 ml) was added dropwise conc. hydrochloric acid (i.56 ml) at room temperature. After the mixture was stirred for 3 hours, the solvent was evaporated in vacuo. The residue was diluted with the mixture of water and ethyl acetate while the pH was adjusted between 8.0 and 8.5 with saturated sodium hydrogen carbonate. The organic layer was collected, washed with water and brine and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified on silica gel (eluent: dichloromethane-acetone) to afford diphenylmethyl 7β-[2-(2-amino-5-chlorothiazol-4-yl)-2-(Z)-(2-cyclopenten-1-yloxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate (1.77 g).

reactant | diphenylmethyl 7β-[2-(5-chloro-2-formylaminothiazol-4-yl)-2-(Z)-(2-cyclopenten-1-yloxyimino)acetamido]-3-[(1-tritylpyrazol-4-yl)methylthio]-3-cephem-4-carboxylate | 3.82 g | ClC1=C(N=C(S1)NC=O)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC1C=CCC1 | C54H44ClN7O6S3
reactant | methanol | 40 ml | CO | CH4O
reactant | hydrochloric acid | 56 ml | Cl | ClH
solvent | tetrahydrofurane | 12 ml | O1CCCC1 | C4H8O
product | diphenylmethyl 7β-[2-(2-amino-5-chlorothiazol-4-yl)-2-(Z)-(2-cyclopenten-1-yloxyimino)acetamido]-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate | 1.77 g | NC=1SC(=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NNC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC1C=CCC1)Cl | C34H30ClN7O5S3
